US04791115
2-Bromo-6-methyl-8α-pivaloylamino-9,10-didehydro-ergoline
A solution of 1.5 g 6-methyl-8α-pivaloylamino-9,10-didehydro-ergoline in 120 ml dioxane is treated with 960 mg N-bromosuccinimide and the resulting mixture stirred at room temperature overnight The reaction mixture is then evaporated and the residue partitioned between ethyl acetate and 2N Na2CO3. The organic layers are dried (Na2SO4), evaporated and chromatographed on 80 g silica gel using 98:2 CH2Cl2 /CH3OH. Crystallization from ether gives the title compound, m.p. 169°-171°.

reactant | 6-methyl-8α-pivaloylamino-9,10-didehydro-ergoline | 1.5 g | CN1C[C@H](C=C2C=3C=CC=C4NC=C(C[C@@H]12)C34)NC(C(C)(C)C)=O | C20H25N3O
reactant | N-bromosuccinimide | 960 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | 2-Bromo-6-methyl-8α-pivaloylamino-9,10-didehydro-ergoline | BrC1=C2C[C@H]3N(C[C@H](C=C3C=3C=CC=C(N1)C32)NC(C(C)(C)C)=O)C | C20H24BrN3O
